US05684034
5-Hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide (1.2 g, 4.1 mmol) was dissolved in 40 mL of pyridine, 90 mg (2.2 mmol) of 60% NaH/mineral oil added, stirred 0.17 hours, 315 mg of CuO added, stirred 0.17 hours and 0.5 (4.1 mmol) mL of iodobenzene added. The mixture was heated to maintain reflux for 24 hours, cooled, and diluted with ethyl acetate and 1N HCl. The mixture was filtered thru a celite pad and the organic material separated, washed with brine, dried (Na2SO4) and concentrated at reduced pressure. The residue was chromatographed on silica gel and eluted with 1% MeOH/methylene chloride→3% MeOH/methylene chloride to give 40 mg (3% yield) of 2-methyl-5-phenoxy-1-(phenylmethyl)-1H-indole-3-acetamide.

reactant | 5-Hydroxy-2-methyl-1-(phenylmethyl)-1H-indole-3-acetamide | 4.1 mmol, 1.2 g | OC=1C=C2C(=C(N(C2=CC1)CC1=CC=CC=C1)C)CC(=O)N | C18H18N2O2
reactant | NaH | 2.2 mmol, 90 mg | [H-].[Na+]
reactant | iodobenzene | IC1=CC=CC=C1 | C6H5I
solvent | pyridine | 40 mL | N1=CC=CC=C1 | C5H5N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | HCl | 1N | Cl | ClH
product | 2-methyl-5-phenoxy-1-(phenylmethyl)-1H-indole-3-acetamide | 40 mg, 3% yield | CC=1N(C2=CC=C(C=C2C1CC(=O)N)OC1=CC=CC=C1)CC1=CC=CC=C1 | C24H22N2O2
